US06127372
The procedure described in Example 1A was performed using isobutylamine (0.396 g, 5.41 mmol) and 3-nitrobenzenesulfonyl chloride (1.0 g, 4.5 mmol) to give N-isobutyl-3-nitrobenzenesulfonamide (0.916 g, 78%). 1H NMR consistent with structure.

reactant | isobutylamine | 5.41 mmol, 0.396 g | C(C(C)C)N | C4H11N
reactant | 3-nitrobenzenesulfonyl chloride | 4.5 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
product | N-isobutyl-3-nitrobenzenesulfonamide | 0.916 g, 78% | C(C(C)C)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H14N2O4S
